US09029388B2
C) 2-[4-(Imidazo[1,2-a]pyridin-8-yl)phenoxy]-1H-benzimidazole
A mixture of 2-[4-(imidazo[1,2-a]pyridin-8-yl)phenoxy]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole (0.53 g), 4 M hydrogen chloride-ethyl acetate solution (20 ml) and methanol (4 ml) was heated under reflux for 3 hr. The reaction mixture was concentrated under reduced pressure, saturated aqueous sodium hydrogen carbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was recrystallized from ethyl acetate to give the title compound (0.29 g).

reactant | 2-[4-(imidazo[1,2-a]pyridin-8-yl)phenoxy]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole | 0.53 g | N=1C=CN2C1C(=CC=C2)C2=CC=C(OC1=NC3=C(N1COCC[Si](C)(C)C)C=CC=C3)C=C2 | C26H28N4O2Si
reactant | hydrogen chloride-ethyl acetate | 4 M, 20 ml | C(C)(=O)OCC.Cl
solvent | methanol | 4 ml | CO | CH4O
product | 2-[4-(Imidazo[1,2-a]pyridin-8-yl)phenoxy]-1H-benzimidazole | 0.29 g | N=1C=CN2C1C(=CC=C2)C2=CC=C(OC1=NC3=C(N1)C=CC=C3)C=C2 | C20H14N4O
